US07202257B2
To a solution of 3-(3-amino-phenyl)-propionic acid ethyl ester (14 g, 72.5 mmol) in concentrated HCl (200 mL) was added an aqueous solution (10 mL) of NaNO2 (5 g, 72.5 mmol) at 0° C. and the resulting mixture was stirred for 1 h. A solution of SnCl2.2H2O (33 g, 145 mmol) in concentrated HCl (150 mL) was then added at 0° C. The reaction solution was stirred for an additional 2 h at RT. The precipitate was filtered and washed with ethanol and ether to give 3-(3-hydrazino-phenyl)-propionic acid ethyl ester as a white solid, which was used without further purification.

reactant | 3-(3-amino-phenyl)-propionic acid ethyl ester | 72.5 mmol, 14 g | C(C)OC(CCC1=CC(=CC=C1)N)=O | C11H15NO2
reactant | NaNO2 | 72.5 mmol, 10 mL, 5 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 145 mmol, 33 g | O.O.Cl[Sn]Cl
solvent | HCl | 200 mL | Cl | ClH
solvent | HCl | 150 mL | Cl | ClH
product | 3-(3-hydrazino-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC(=CC=C1)NN)=O | C11H16N2O2
